Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
___
 
Attending: ___
 
Chief Complaint:
Right parietal IPH
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old woman with a history of T1DM,
HTN, hypothyroidism, chronic thrombocytopenia, who presents with
1 day of headache found to have a right parietal 
intraparenchymal
hemorrhage.

She was otherwise in her usual state of health until yesterday
evening, when she noticed a gradual onset, right frontal
headache. She was gardening earlier that day without problems.
She took a Tylenol but did not notice an improvement. She 
thought
it might be low blood sugar, so she drank some orange juice;
however, she proceeded to vomit this back up. She went to bed
hoping pain would go away. This morning, however, she woke up
with the same headache, and decided to call EMS. She was taken 
to
an OSH where a ___ revealed a right parietal IPH measuring 4.2
x 2.8 x 2.3. She was given 100gm of mannitol as well as 1 gram 
of
levetiracetam. Exam was intact, and she was sent to ___ for
further management. Seen by Neurosurgery in ED with no acute
intervention recommended at this time. 

Of note, patient reports being compliant with her medications;
finger sticks at home usually range between 100-160. Clinic BP
have been <140 per quick review.

On neuro ROS, the pt loss of vision, blurred vision, diplopia,
dysarthria, dysphagia, lightheadedness, vertigo, tinnitus or
hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention.
Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
Adult-onset T1DM
HTN
Hypothyroidism
Thrombocytopenia, thought to be ?ITP vs early MDS per ___ onc
notes
 
Social History:
___
Family History:
Non-contributory. 
 
Physical Exam:
==============
ADMISSION EXAM
==============
Physical Exam:
Vitals: T98   P81   BP162/70   RR14   O2 99% RA 
 
General: Awake, cooperative, NAD. Falls asleep during exam and
needs constant stimulus.
HEENT: NC/AT, no scleral icterus noted, dry mucus MM, no lesions
noted in oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes. There was no
evidence of apraxia.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3->2mm. EOMI without nystagmus. Normal
saccades. Left homonymous hemianopia. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was extensor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Deferred

==============
DISCHARGE EXAM
==============
Vitals: Tm 98.9 ; Tc 98.4  HR ___ ; BP 145-153/60-68 ; RR 18 ; 
O2 96% RA  FSBG 283 
 
General: Wide awake, alert, cooperative, NAD. 
HEENT: NC/AT, no scleral icterus noted, no lesions noted in 
oropharynx. 
Pulmonary: Breathing comfortably. 
Cardiac: Well perfused. 
Abdomen: NT/ND
Extremities: No C/C/E bilaterally. 
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Wide awake, alert and oriented x 4. Able to 
relate history without difficulty. Language is fluent. Normal 
prosody. There were no paraphasic errors. Speech was not 
dysarthric. Able to follow both midline and appendicular 
commands. 

-Cranial Nerves:
PERRL 3->2mm. EOMI without nystagmus. Normal saccades. No facial 
droop, facial musculature symmetric. Palate elevates 
symmetrically. Left homonymous hemianopia, but field improved. 

-Motor: No pronator drift bilaterally.
No adventitious movements, such as tremor, noted. No asterixis 
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch. No extinction to DSS.

-Coordination: No intention tremor. No dysmetria on FNF. 

 
Pertinent Results:
=============
SELECTED LABS
=============
___ 04:10AM BLOOD WBC-5.5 RBC-3.85* Hgb-12.0 Hct-37.5 
MCV-97 MCH-31.2 MCHC-32.0 RDW-13.1 RDWSD-46.8* Plt ___
___ 04:10AM BLOOD Neuts-77.8* Lymphs-14.2* Monos-4.9* 
Eos-2.0 Baso-0.7 Im ___ AbsNeut-4.28 AbsLymp-0.78* 
AbsMono-0.27 AbsEos-0.11 AbsBaso-0.04
___ 04:10AM BLOOD ___ PTT-25.4 ___
___ 04:10AM BLOOD Glucose-305* UreaN-17 Creat-0.6 Na-135 
K-4.3 Cl-96 HCO3-25 AnGap-18
___ 04:10AM BLOOD Calcium-9.1 Phos-3.1 Mg-1.8
___ 06:40AM BLOOD %HbA1c-9.6* eAG-229*
___ 06:40AM BLOOD Triglyc-60 HDL-81 CHOL/HD-1.8 LDLcalc-53
___ 06:40AM BLOOD TSH-0.54
___ 09:40AM BLOOD WBC-5.7 RBC-3.70* Hgb-11.5 Hct-35.2 
MCV-95 MCH-31.1 MCHC-32.7 RDW-13.2 RDWSD-46.1 Plt ___
___ 06:40AM BLOOD ___ PTT-24.7* ___
___ 09:40AM BLOOD Glucose-190* UreaN-30* Creat-0.7 Na-138 
K-3.4 Cl-100 HCO3-25 AnGap-16
___ 05:15PM URINE Color-Yellow Appear-Clear Sp ___

=======
IMAGING
=======
- ___ Non-Contrast CT of ___:
1. 4.2 x 2.8 x 2.3 cm right temporal intraparenchymal hemorrhage 
with adjacent vasogenic edema. Associated right lateral 
intraventricular hemorrhage. Compared with the study from 
___ (Clip ___, no significant change.
2. No new acute hemorrhage detected. No shift of normally 
midline structures. Basal cisterns remain patent.

- ___ MR ___
1. Study is moderately degraded by motion and limited by lack of 

administration of intravenous contrast. 
2. Stable right temporal intraparenchymal hematoma extending 
into the lateral ventricles. 
3.  Within limits of study, no evidence of new hemorrhage or 
acute vascular territorial infarction. 
4. Evaluation for and underlying mass is limited by lack of 
intravenous contrast and presence of acute hemorrhage.  Short 
interval follow-up with contrast after resolution of the 
hematoma is recommended. 

- ___ MRI/MRA ___ WWO Contrast
1. No significant change in the size right posterior temporal 
parenchymal hematoma with intraventricular extension.  
Surrounding vasogenic edema and mild effacement of the atrium 
and occipital horn of the right lateral ventricle are stable. 
2. Expected evolution of right posterior temporal blood products 
is observed, with increased T1 hyperintensity and increased T2 
hypointensity.  In addition, there are foci of intermediate T2 
signal and partial T1 hyperintensity in the posterior aspect of 
the hematoma, which are rounded with masslike appearance. 
However, no contrast enhancement is seen outside of the T1 
hyperintense blood 
products to definitively indicate a mass. 
3. No evidence for enhancing masses or prior hemorrhages 
separate from the current hemorrhage. 
4. Right leptomeningeal hyperemia and abnormal signal on FLAIR 
images in the right temporal, parietal, and occipital sulci, 
which may reflect subarachnoid hemorrhage or reactive 
inflammation. 
RECOMMENDATION(S):  Follow up MRI with and without contrast 
after resolution of T1 hyperintense blood products.  
 
Brief Hospital Course:
___ is a ___ year old woman with a history of T1DM, 
HTN, hypothyroidism, chronic thrombocytopenia, who presents with 
1 day of headache found to have a right parietal 
intraparenchymal hemorrhage, likely occurring in the setting of 
intense exercise (dragging a barrel up a hill). Only symptom was 
left homonymous hemianopia. Regarding risk factors, her lipids 
are excellent however her diabetes is poorly controlled (9.6%). 
Etiology is most likely hypertensive though given age, history, 
and location, there is suspicious for first amyloid bleed as 
well. Alternatively may be cavernous angioma, AVM, hemorrhagic 
conversion of ischemic stroke. Given minimal deficits, plan for 
discharge home with ___ versus a short rehab stay. 
Discontinued aspirin indefinitely given hemorrhage. Lisinopril 
was increased from 5mg to 20mg daily, but systolic blood 
pressures were still elevated 160s-170s, so amlodipine 5mg daily 
was added to good effect (SBP 136 on discharge). She is 
scheduled for a repeat MRI in ___ weeks, and for follow-up with 
stroke neurology in 2 months. She will also transfer her 
diabetes management to the ___ on ___. 

She was seen by ___ and will be discharged home with services. 
Her second-floor apartment has already been arranged to be moved 
to the first floor. 

========================================  
AHA/ASA Core Measures for Intracerebral Hemorrhage  
1. Dysphagia screening before any PO intake? (x) Yes - () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
5. Assessment for rehabilitation and/or rehab services 
considered? (x) Yes - () No  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 112 mcg PO DAILY 
2. Lisinopril 5 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Lantus (insulin glargine) 12 units subcutaneous QPM 
5. HumaLOG (insulin lispro) ___ units subcutaneous TID 
6. FoLIC Acid 1 mg PO DAILY 
7. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth DAILY Disp #*30 Tablet 
Refills:*3 
2.  Glargine 12 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
3.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H Duration: 5 
Days  
4.  Lisinopril 20 mg PO DAILY 
RX *lisinopril 20 mg 1 tablet(s) by mouth DAILY Disp #*30 Tablet 
Refills:*3 
5.  Atorvastatin 80 mg PO QPM  
6.  FoLIC Acid 1 mg PO DAILY  
7.  Levothyroxine Sodium 112 mcg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right posterior parietal hemorrhagic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  
You were hospitalized due to symptoms of headache resulting from 
a HEMORRHAGIC STROKE, a condition where a blood vessel providing 
oxygen and nutrients to the brain breaks and bleeds. The brain 
is the part of your body that controls and directs all the other 
parts of your body, so damage to the brain from being deprived 
of its blood supply can result in a variety of symptoms.  
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
- Hypertension
- Diabetes
- Aspirin use
 
We are changing your medications as follows:  
- STOP aspirin. This medicine is useful in preventing strokes 
caused by blockages (clots), but you have had a bleed - making 
this medicine a risk for greater bleeds. 
- INCREASE lisinopril to 20mg DAILY. 
- START amlodipine 5mg DAILY. 
- MONITOR your blood pressure. Hold your amlodipine for systolic 
BP less than 110. Call your PCP who may ask you to stop or halve 
your dose. 

Please take your other medications as prescribed.  
Please followup with Neurology and your primary care physician 
as listed below.  
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- Sudden partial or complete loss of vision  
- Sudden loss of the ability to speak words from your mouth  
- Sudden loss of the ability to understand others speaking to 
you  
- Sudden weakness of one side of the body  
- Sudden drooping of one side of the face  
- Sudden loss of sensation of one side of the body  

Thank You,
Your ___ Neurology Team
 
Followup Instructions:
___